US05973189
5 g (21.8 mmol) of N-carboxymethylene-4-chloro-anthranilic acid are introduced into 50 ml of methanol, and 222 mg (2.3 mmol) of sulfuric acid are added. The mixture is heated under reflux for 4 hours and then cooled to room temperature. The product which has precipitated out is filtered off with suction, washed with methanol and dried. 4.0 g (16.4 mmol; 75%) of N-carbomethoxymethylene-4-chloro-anthranilic acid are obtained.

reactant | N-carboxymethylene-4-chloro-anthranilic acid | 21.8 mmol, 5 g | C(=O)(O)C=NC=1C(C(=O)O)=CC=C(C1)Cl | C9H6ClNO4
reactant | sulfuric acid | 2.3 mmol, 222 mg | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 ml | CO | CH4O
product | N-carbomethoxymethylene-4-chloro-anthranilic acid | 16.4 mmol, 4.0 g, 75% | C(=O)(OC)C=NC=1C(C(=O)O)=CC=C(C1)Cl | C10H8ClNO4
